US06784323B2
3-(1H-Indol-3-yl)-butanal (130 mg, 0.690 mmol) was dissolved in tert-butyl alcohol (27 mL) and 2-methyl-2-butene (4.7 mL) and subsequently was stirred for 10 min. To this solution was added an aqueous solution (4.7 mL) of NaClO2 (75 mg, 0.83 mmol) and NaH2PO4 (115 mg, 0.830 mmol) in one portion. The reaction mixture was stirred at room temperature for 12 h. The organics were removed by concentrating in vacuo. The residue was diluted with 10 mL of H2O, and adjusted to a neutral pH with 1M HCl. Extraction with EtOAc (3×10 mL), drying over Na2SO4, and concentration in vacuo provided 3-(1H-indol-3-yl)-butanoic acid. TMS-diazomethane was added dropwise to a solution of the crude 3-(1H-indol-3-yl)-butanoic acid in methanol (7 mL) until a yellow color persisted. The residual TMS-diazomethane was quenched by the dropwise addition of acetic acid until the yellow color disappeared. The reaction was then treated with an excess of saturated aqueous sodium bicarbonate, extracted with Et2O (3×20 ml), dried over Na2SO4 and purified by silica gel chromatography (20:80 EtOAc/hexanes to provide (R)-3-(1H-indol-3-yl)-butyric acid methyl ester. [α]D=−7.6 (c=1.0 benzene); reported rotation for (S)-3-(1H-indol-3-yl)-butyric acid methyl ester [α]D=+10.9 (c=2.12, benzene).

reactant | 3-(1H-Indol-3-yl)-butanal | 0.690 mmol, 130 mg | N1C=C(C2=CC=CC=C12)C(CC=O)C | C12H13NO
reactant | 2-methyl-2-butene | 4.7 mL | CC(C)=CC | C5H10
reactant | NaClO2 | 0.83 mmol, 4.7 mL, 75 mg | [O-]Cl=O.[Na+]
solvent | tert-butyl alcohol | 27 mL | C(C)(C)(C)O | C4H10O
product | 3-(1H-indol-3-yl)-butanoic acid | N1C=C(C2=CC=CC=C12)C(CC(=O)O)C | C12H13NO2
